US04224325
Preparation of 3-hydrazino-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine
A mixture of 34.2 g. of 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine, 100 ml of 72% hydrazine hydrate and 200 ml of dioxane is stirred at 90°-95° C. for 14 hours, then the mixture is poured into 1 liter of water, extracted three times with 150 ml of chloroform each, and the combined organic phases are dried over magnesium sulphate. After evaporation of the solvent, the residue is recrystallized from isopropanol. Yield: 27 g /80%/; m.p.: 142°-143° C.

reactant | 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | ClC=1N=NC(=CC1)N1N=C(C=C1C)C | C9H9ClN4
reactant | hydrazine hydrate | 100 ml | O.NN
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 liter | O | H2O
product | 3-hydrazino-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | N(N)C=1N=NC(=CC1)N1N=C(C=C1C)C | C9H12N6
